US08236790B2
Step A: N-[[[2-(chlorosulphonyl)-4-methoxyphenyl]amino]methylene]-N-methyl-methanaminium chloride
Dimethylformamide (0.152 mol) is added dropwise to a suspension of 2-amino-5-methoxybenzenesulphonic acid (0.152 mol) in thionyl chloride (0.763 mol). The reaction mixture is heated very gradually to 70° C. and is maintained at that temperature for 1.5 hours. After cooling, the stirred reaction solution is treated by the addition of 20 ml of toluene. A precipitate is formed which is rapidly filtered off, rinsed with toluene and then dried at 40° C. in vacuo in the presence of KOH pellets, to yield the title product.

reactant | Dimethylformamide | 0.152 mol | CN(C=O)C | C3H7NO
reactant | 2-amino-5-methoxybenzenesulphonic acid | 0.152 mol | NC1=C(C=C(C=C1)OC)S(=O)(=O)O | C7H9NO4S
reactant | thionyl chloride | 0.763 mol | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-[[[2-(chlorosulphonyl)-4-methoxyphenyl]amino]methylene]-N-methyl-methanaminium chloride | [Cl-].ClS(=O)(=O)C1=C(C=CC(=C1)OC)NC=[N+](C)C | InChI=1S/C10H13ClN2O3S.ClH/c1-13(2)7-12-9-5-4-8(16-3)6-10(9)17(11,14)15;/h4-7H,1-3H3;1H
